US08193199B2
To a solution of 8-chloro-2-(2-(trifluoromethoxy)phenyl)quinoline-3-carbaldehyde (0.5427 g, 1.543 mmol) in tetrahydrofuran (7.715 mL, 1.543 mmol) at 0° C. was added SODIUM BOROHYDRIDE (0.08757 g, 2.315 mmol) and the mixture was stirred at 0° C. and allowed to warm to room temperature over 1 hour. After 1 h of stirring at 0° C., the mixture was partitioned between EtOAc (100 mL) and H2O (100 mL), and the organic layer was washed with brine (50 mL×2), dried over Na2SO4, filtered, and concentrated under reduced pressure to give (8-chloro-2-(2-(trifluoromethoxy)phenyl)quinolin-3-yl)methanol as a light-yellow solid: 1H NMR (400 MHz, DMSO-d6) δ ppm 8.58 (1H, s), 8.10 (1H, dd, J=8.3, 1.3 Hz), 7.95 (1H, dd, J=7.5, 1.3 Hz), 7.51-7.72 (5H, m), 5.54 (1H, s), 4.44 (2H, s); LC-MS (ESI) m/z 354.0 [M+H]+. The product was carried on crude without purification for the next step.

reactant | 8-chloro-2-(2-(trifluoromethoxy)phenyl)quinoline-3-carbaldehyde | 1.543 mmol, 0.5427 g | ClC=1C=CC=C2C=C(C(=NC12)C1=C(C=CC=C1)OC(F)(F)F)C=O | C17H9ClF3NO2
reactant | tetrahydrofuran | 1.543 mmol, 7.715 mL | O1CCCC1 | C4H8O
reactant | SODIUM BOROHYDRIDE | 2.315 mmol, 0.08757 g | [BH4-].[Na+]
product | (8-chloro-2-(2-(trifluoromethoxy)phenyl)quinolin-3-yl)methanol | ClC=1C=CC=C2C=C(C(=NC12)C1=C(C=CC=C1)OC(F)(F)F)CO | C17H11ClF3NO2
